US05118811
A solution of 2-oxopyrrolidine (5.00 g) in THF (60 ml) was cooled to -50° C., and a 1.55 M n-BuLi/THF solution (38 ml) was dropwise added thereto. After 0.5 hour's stirring at -30° C., succinic anhydride (6.00 g) was added dropwise, followed by stirring at a temperature of -30°--20° C. for 0.5 hour. The reaction mixture was poured into ice water and adjusted to pH 4 with 1N hydrochloric acid, and extracted with n-butanol. The organic layer was washed with saturated brine and concentrated to give 9.42 g of 4-oxo-4-(2-oxo-1-pyrrolidinyl)butyric acid.

reactant | 2-oxopyrrolidine | 5.00 g | O=C1NCCC1 | C4H7NO
reactant | n-BuLi THF | 1.55 M, 38 ml | [Li]CCCC.C1CCOC1
reactant | succinic anhydride | 6.00 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 4-oxo-4-(2-oxo-1-pyrrolidinyl)butyric acid | 9.42 g | O=C(CCC(=O)O)N1C(CCC1)=O | C8H11NO4
